US04166115
Trichloroacetyl isocyanate (70 ml) was dropwise added over 6 minutes at ambient temperature to a solution of 2-methoxyimino-2-(3-hydroxyphenyl)acetic acid (syn isomer) (40 g) in dry dioxane (200 ml), and the resulting mixture was stirred for 5 hours at ambient temperature. Dioxane was distilled off and to the residue were added ethyl acetate (200 ml) and by small portions water (200 ml) under ice-cooling. The mixture containing trichloroacetylcarbamoyl 2-methoxyimino-2-(3-trichloroacetylcarbamoyloxyphenyl)acetate was stirred for 5 hours at ambient temperature keeping the pH value of the mixture at 6.0 to 6.4 by adding an aqueous solution of sodium bicarbonate. The resulting mixture was washed twice with ethyl acetate. The aqueous layer was adjusted to pH 2 with a 10% hydrochloric acid and extracted three times with ethyl acetate. The combined ethyl acetate extracts were washed twice with an aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off and precipitating crystals were collected by filtration to give colorless crystals of 2-methoxyimino-2-(3-carbamoyloxyphenyl)acetic acid (syn isomer) (15 g), mp 163° C. (dec.). The same compound (5.4 g) was obtained from the mother liquor.

reactant | Trichloroacetyl isocyanate | 70 ml | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | 2-methoxyimino-2-(3-hydroxyphenyl)acetic acid | 40 g | CON=C(C(=O)O)C1=CC(=CC=C1)O | C9H9NO4
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 2-methoxyimino-2-(3-carbamoyloxyphenyl)acetic acid | 15 g | CON=C(C(=O)O)C1=CC(=CC=C1)OC(N)=O | C10H10N2O5
